US08039463B2
A solution of 4-(2-bromo-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (500 mg, 1.3 mmol) in 1,4-dioxane.HCl (3 mL) was stirred at 0° C. for 30 minutes. The reaction was monitored by TLC (10% MeOH in CHCl3). The reaction mixture was concentrated under reduced pressure to get a solid, which was washed with ether and dried to afford 400 mg (95.69% Yield) of (2-bromo-phenyl)-[1,4]diazepan-1-yl-methanone hydrochloride.

reactant | 4-(2-bromo-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.3 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(C1=C(C=CC=C1)Br)=O | C17H23BrN2O3
reactant | HCl | 3 mL | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (2-bromo-phenyl)-[1,4]diazepan-1-yl-methanone hydrochloride | 400 mg, 95.69% Yield | Cl.BrC1=C(C=CC=C1)C(=O)N1CCNCCC1 | InChI=1S/C12H15BrN2O.ClH/c13-11-5-2-1-4-10(11)12(16)15-8-3-6-14-7-9-15;/h1-2,4-5,14H,3,6-9H2;1H
